US05475106
Using a procedure similar to that described in Example 1, but starting with tert-butyl 2-{2-amino-N-[2-(acetylamino)phenyl]acetamido}acetate (4.7 g) and 3-methylphenyl isocyanate (2 g), and after recrystallisation in ethyl acetate, tert-butyl 2-{N-[2-(acetylamino)phenyl]-2-[3-(3-methylphenyl)ureido]acetamido}acetate (3.6 g), m.p. 185° C., is obtained.

reactant | tert-butyl 2-{2-amino-N-[2-(acetylamino)phenyl]acetamido}acetate | 4.7 g | NCC(=O)N(C1=C(C=CC=C1)NC(C)=O)CC(=O)OC(C)(C)C | C16H23N3O4
reactant | 3-methylphenyl isocyanate | 2 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | tert-butyl 2-{N-[2-(acetylamino)phenyl]-2-[3-(3-methylphenyl)ureido]acetamido}acetate | 3.6 g | C(C)(=O)NC1=C(C=CC=C1)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)CC(=O)OC(C)(C)C | C24H30N4O5
